US06440636B1
A solution of 100 mmole of the above-prepared n-butyl 3,5-bis(2-methoxyethoxymethoxy)-1-adamantanecarboxylate in 150 ml of THF was added dropwise to the above-prepared methylmagnesium bromide solution in such a rate that the solvent 4 was gently refluxed. The reflux operation was continued for further 2 hours after the completion of addition. The resulting reaction mixture was added dropwise to a 10% by weight hydrochloric acid cooled on ice, while stirring, and the mixture was stirred for further 2 hours at a temperature in a range from 0° C. to room temperature. A 10% by weight aqueous sodium hydroxide solution was added to the reaction mixture to adjust the mixture to around neutrality, and the neutralized mixture was separated to an organic layer and an aqueous layer; the aqueous layer was extracted with toluene; the organic layer was concentrated; and the concentrate was subjected to column chromatography on a silica gel to yield α,α-dimethyl-3,5-bis(2-methoxyethoxymethoxy)-1-adamantanemethanol.

reactant | n-butyl 3,5-bis(2-methoxyethoxymethoxy)-1-adamantanecarboxylate | 100 mmole | COCCOCOC12CC3(CC(CC(C1)(C3)OCOCCOC)C2)C(=O)OCCCC | C23H40O8
reactant | methylmagnesium bromide | C[Mg]Br
reactant | hydrochloric acid | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
reactant | THF | 150 ml | C1CCOC1 | C4H8O
product | α,α-dimethyl-3,5-bis(2-methoxyethoxymethoxy)-1-adamantanemethanol | CC(O)(C12CC3(CC(CC(C1)C3)(C2)OCOCCOC)OCOCCOC)C | C21H38O7
